US06521643B1
To a suspension of 3-(4-methoxypyridin-2-yl)-4-methylaniline (238 mg), N,N′-bis(tert-butoxycarbonyl)thiourea (368 mg) and diisopropylethylamine (0.445 ml) in dichloromethane (10 ml) was added 1-methyl-2-chloropyridinium iodide (369 mg), and the mixture was stirred for 2 hours. The mixture was diluted with dichloromethane, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 25 g, n-hexane:ethyl acetate=3:1) to give N,N′-bis(tert-butoxycarbonyl)-N″-(3-(4-methoxypyridin-2-yl)-4-methylphenyl)guanidine (471 mg).

reactant | 3-(4-methoxypyridin-2-yl)-4-methylaniline | 238 mg | COC1=CC(=NC=C1)C=1C=C(N)C=CC1C | C13H14N2O
reactant | N,N′-bis(tert-butoxycarbonyl)thiourea | 368 mg | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
reactant | diisopropylethylamine | 0.445 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-chloropyridinium iodide | 369 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(4-methoxypyridin-2-yl)-4-methylphenyl)guanidine | 471 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=C(C=C1)C)C1=NC=CC(=C1)OC)NC(=O)OC(C)(C)C | C24H32N4O5
